US06989448B2
Step 1: The Preparation of 3-(1H-imidazol-4-yl)-2-isopropylamino-propionic acid
A mixture of L-histidine (15.51 g, 100 mmol) and acetone (14.7 mL, 200 mmol) was agitated in an atmosphere of hydrogen (pressure, 46-51 psi) at 40° C. in 500 mL ethanol in the presence of Pd/C (20%, 2 g) until the absorption of hydrogen had ceased. The mixture was filtered, and the filtrate was concentrated to dryness under reduced pressure. The white solid thus obtained was triturated with ethanol and dried under vacuum to give 7.31 g (37%) of the title compound as a white solid.

reactant | L-histidine | 100 mmol, 15.51 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | acetone | 200 mmol, 14.7 mL | CC(=O)C | C3H6O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 3-(1H-imidazol-4-yl)-2-isopropylamino-propionic acid | 7.31 g, 37% | N1C=NC(=C1)CC(C(=O)O)NC(C)C | C9H15N3O2
